US04455422
2.88 Grams of 6-(4-morpholinobutyl)-3,4-dihydro-carbostyril and 10 ml of aniline were enclosed in a sealed tube and heated at 170°-200° C. for 5 hours. The reaction mixture was concentrated under a reduced pressure by removing aniline and the residue thus obtained was separated and purified by a silica-gel chromatography. Recrystallized from iropropanoldiisopropyl ether to obtain 0.36 g of 6-[4-(4-phenyl-1-piperazinyl)butyl]-3,4-dihydrocarbostyril in colorless prism-like crystals having the melting point of 151°-152° C.

reactant | 6-(4-morpholinobutyl)-3,4-dihydro-carbostyril | O1CCN(CC1)CCCCC=1C=C2CCC(NC2=CC1)=O | C17H24N2O2
solvent | aniline | 10 ml | NC1=CC=CC=C1 | C6H7N
product | 6-[4-(4-phenyl-1-piperazinyl)butyl]-3,4-dihydrocarbostyril | 0.36 g | C1(=CC=CC=C1)N1CCN(CC1)CCCCC=1C=C2CCC(NC2=CC1)=O | C23H29N3O
